US09238647B2
Step D: 2-Methyl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}propane-2-sulfinamide
To a solution of 2-methyl-N-{(1Z)-[2-(trifluoromethyl)pyrimidin-5-yl]methylene}propane-2-sulfinamide (14.3 g, 51.2 mmol) in toluene (260 mL) at −70° C. was added methyllithium (1.6 M; 35.0 mL, 56.0 mmol). The mixture was stirred at −70° C. for 15 min. The mixture was quenched with sat. NH4Cl and the reaction was allowed to warm to ambient temperature. The mixture was extracted with dichloromethane (3×). The combined organic extracts was dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→35% hexanes/ethyl acetate then 100% ethyl acetate→94% ethyl acetate/methanol) gave the title compound (7.23 g). MS 240.0 [(M+1)-56].

reactant | 2-methyl-N-{(1Z)-[2-(trifluoromethyl)pyrimidin-5-yl]methylene}propane-2-sulfinamide | 51.2 mmol, 14.3 g | CC(C)(C)S(=O)\N=C/C=1C=NC(=NC1)C(F)(F)F | C10H12F3N3OS
reactant | methyllithium | 56.0 mmol, 1.6 M, 35.0 mL | C[Li]
solvent | toluene | 260 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-N-{(1R)-1-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl}propane-2-sulfinamide | 7.23 g | CC(C)(C)S(=O)N[C@H](C)C=1C=NC(=NC1)C(F)(F)F | C11H16F3N3OS
